US09328118B2
1-(tert-Butoxycarbonyl)-4-piperidinemethanol (400 mg) was added to a mixture of 60% sodium hydride (90 mg) and DMF (11 mL) under ice-cooling in a nitrogen atmosphere, and the mixture was stirred for 10 minutes. A solution of 4-bromo-1-(bromomethyl)-2-(trifluoromethyl)benzene (550 mg) in DMF (2 mL) was added to the mixture under ice-cooling. After the reaction mixture was stirred for 30 minutes under ice-cooling, the temperature of the reaction mixture was raised to room temperature, and stirring was performed for 30 minutes. After a saturated aqueous ammonium chloride solution was added to the reaction mixture, extraction thereof was performed using an EtOAc-Hex mixed solvent (1:1), and the extract was washed with water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=99:1 to 90:10), whereby tert-butyl 4-({[4-bromo-2-(trifluoromethyl)benzyl]oxy}methyl)piperidine-1-carboxylate (598 mg) was obtained as a pale yellow oil.

reactant | 1-(tert-Butoxycarbonyl)-4-piperidinemethanol | 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | sodium hydride | 90 mg | [H-].[Na+]
reactant | 4-bromo-1-(bromomethyl)-2-(trifluoromethyl)benzene | 550 mg | BrC1=CC(=C(C=C1)CBr)C(F)(F)F | C8H5Br2F3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-({[4-bromo-2-(trifluoromethyl)benzyl]oxy}methyl)piperidine-1-carboxylate | 598 mg | BrC1=CC(=C(COCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C(F)(F)F | C19H25BrF3NO3
